US07081454B2
3-Amino-5-fluoro-2-nitro phenyl acetic acid:
To the 2-(3-Amino-5-fluoro-2-nitro-phenyl)-malonic acid di-tert-butyl ester (140 g) in 500 mL of 4N HCl in dioxane was added 50 mL of water and heated to 40° C. for 2 days. The solution was extracted with ethyl acetate (3×'s) and the ethyl acetate washed with water (3×'s) and brine. The organic fraction was dried over MgSO4 and was concentrated to give 78 g of crude (66% pure by LC/MS); 1H NMR (500 MHz, DMSO) δ 12.40 (brs, 1H), 7.04 (s, 2H), 6.68 (dd, J=10.9 2.8 Hz, 1H), 6.47 (dd, J=10.9, 2.8 Hz, 1H), 3.80 (s, 2H).

reactant | 2-(3-Amino-5-fluoro-2-nitro-phenyl)-malonic acid di-tert-butyl ester | 140 g | C(C)(C)(C)OC(C(C(=O)OC(C)(C)C)C1=C(C(=CC(=C1)F)N)[N+](=O)[O-])=O | C17H23FN2O6
reactant | water | 50 mL | O | H2O
solvent | HCl | 4N, 500 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-Amino-5-fluoro-2-nitro phenyl acetic acid | NC=1C(=C(C=C(C1)F)CC(=O)O)[N+](=O)[O-] | C8H7FN2O4
